US07504411B2
A solution of (4-(4-bromophenyl)-piperidine hydrochloride (279 mg, 1.01 mmol) and triethylamine (554 mg, 5.47 mmol), 2-chloro-3-methyl-6-(pyridin-4-yl)-3H-pyrimidin-4-one (206 mg, 0.929 mmol) in tetrahydrofuran (20 mL) was stirred for 3 hr. The resulting solution was diluted with tetrahydrofuran and filtrated. After removal of the solvents under reduced pressure and the purification of the resulting residue by CHEM ELUT CE1010 (manufactured by VARIAN) eluting dichloromethane/ethanol (15/1, v/v) and wash with ethyl acetate afforded 2-(4-(4-Bromophenyl)-piperidin-1-yl)-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one (368 mg, 93%) as a solid.

reactant | 4-(4-bromophenyl)-piperidine hydrochloride | 1.01 mmol, 279 mg | Cl.BrC1=CC=C(C=C1)C1CCNCC1
reactant | triethylamine | 5.47 mmol, 554 mg | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-3-methyl-6-(pyridin-4-yl)-3H-pyrimidin-4-one | 0.929 mmol, 206 mg | ClC1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C10H8ClN3O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-(4-(4-Bromophenyl)-piperidin-1-yl)-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one | 368 mg, 93% | BrC1=CC=C(C=C1)C1CCN(CC1)C1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C21H21BrN4O
